US08431596B2
(R)-2-Phenyl-2-pyrrolidin-1-yl-ethanol
To a solution of (R)-2-amino-2-phenyl-ethanol (0.5 g, 3.64 mmol) in 2-propanol (40 mL) were added sodium carbonate (1 g, 9.48 mmol), 1,4-dibromobutane (0.57 mL, 4.74 mmol) and potassium iodide (catalytic) in succession, and the mixture was refluxed overnight. After filtration, the sovent was removed under reduced pressure and the crude was used without further purification (0.53 g, 76%). LCMS method: 2, RT: 2.27 min; MI: 191-193 [M+1].

reactant | (R)-2-amino-2-phenyl-ethanol | 3.64 mmol, 0.5 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | sodium carbonate | 9.48 mmol, 1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dibromobutane | 4.74 mmol, 0.57 mL | BrCCCCBr | C4H8Br2
reactant | potassium iodide | [I-].[K+]
solvent | 2-propanol | 40 mL | CC(C)O | C3H8O
product | (R)-2-Phenyl-2-pyrrolidin-1-yl-ethanol | C1(=CC=CC=C1)[C@H](CO)N1CCCC1 | C12H17NO
